US04997840
3-Hydroxy-1-methyl-4-quinolone (3 g) was suspended in dichloromethane (200 ml), triethylamine (5.6 ml) was added to the suspension and the mixture was stirred at ambient temperature for hour. 1 -Butanesulphonyl chloride (2.6 ml) was added to the suspension, the mixture stirred for 90 minutes and then left to stand overnight. The resultant mixture was washed with water (400 ml), aqueous sodium hydroxide (1M, 400 ml) and then further water (3×300 ml). The dichloromethane layer was dried over magnesium sulphate and evaporated to give a solid which was crystallised from methanol (100 ml) to give the novel compound 1-methyl-4-oxo-1,4-dihydroquinol-3-yl 1-butanesulphonate, m.p. 143°-144°.

reactant | 3-Hydroxy-1-methyl-4-quinolone | 3 g | OC1=CN(C2=CC=CC=C2C1=O)C | C10H9NO2
reactant | triethylamine | 5.6 ml | C(C)N(CC)CC | C6H15N
reactant | 1 -Butanesulphonyl chloride | 2.6 ml | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 1-methyl-4-oxo-1,4-dihydroquinol-3-yl 1-butanesulphonate | C(CCC)S(=O)(=O)OC1=CN(C2=CC=CC=C2C1=O)C | C14H17NO4S
